US07754744B2
Step 1: 4-(4-Chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 2,4-dichloro-quinoline (1.00 g, 5.05 mmol, 1.0 equiv; commercially available from Specs Research Laboratory, The Netherlands) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.21 g, 6.06 mmol, 1.2 equiv; commercially available) in dimethoxyethane (15 mL) was added KOtert-Bu (0.79 g, 7.07 mmol, 1.4 equiv), (R)-(−)-1-[(S)-2-(dicyclohexyl-phosphino)-ferrocenyl]ethyl-di-tert-butylphosphine (2.80 mg, 0.0051 mmol, 0.1 mol %; Josiphos ligand [CAS RN 158923-11-6]; commercially available from Strem Chemicals, USA) and palladium(II) acetate (1.13 mg, 0.0051 mmol, 0.1 mol %). The reaction mixture was stirred at 90° C. for 2 h, concentrated by evaporation under reduced pressure and the residue purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane (+1% triethylamine)/ethyl acetate providing 0.22 g (12%) of the title compound. 1H NMR (300 MHz, DMSO): δ1.27-1.41 (m, 2H), 1.42 (s, 9H), 1.93-1.97 (m, 2H), 2.95-3.03 (m, 2H), 3.86-3.90 (m, 2H), 4.09-4.16 (m, 1H), 6.96 (s, 1H), 7.14 (d, J=7.7 Hz, 1H), 7.24-7.30 (m, 1H), 7.55-7.57 (m, 2H), 7.86 (d, J=7.7 Hz, 1H). MS (ISP): 362.4 [M+H]−.

reactant | 2,4-dichloro-quinoline | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 7.07 mmol, 0.79 g, 1.4 equiv | O([K])C(C)(C)C
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | palladium(II) acetate | 0.0051 mmol, 1.13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4-Chloro-quinolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=CC=C2C(=C1)Cl | C19H24ClN3O2
